US07429608B2
8-(5-(Trifluoromethyl)-1H-benzo[d]imidazol-2-ylamino)-1,2,3,4-tetrahydronaphthalen -2-ol.
The reaction of 2-chloro-6-(trifluoromethyl)-1H-benzo[d]imidazole (154 mg, 0.7 mol, prepared according to the procedure described in WO 2004/035549 A1) with 8-amino-1,2,3,4-tetrahydronaphthalen-2-ol (83 mg, 0.5 mmol, prepared according to the procedure described in WO 2003/095420 A1) under the condition of Example 21(b) afforded the title compound. MS (ESI, pos. ion) m/z: 348 (M+1).

reactant | 2-chloro-6-(trifluoromethyl)-1H-benzo[d]imidazole | ClC1=NC2=C(N1)C=C(C=C2)C(F)(F)F | C8H4ClF3N2
reactant | 8-amino-1,2,3,4-tetrahydronaphthalen-2-ol | NC=1C=CC=C2CCC(CC12)O | C10H13NO
product | 8-(5-(Trifluoromethyl)-1H-benzo[d]imidazol-2-ylamino)-1,2,3,4-tetrahydronaphthalen -2-ol | FC(C1=CC2=C(NC(=N2)NC=2C=CC=C3CCC(CC23)O)C=C1)(F)F | C18H16F3N3O
